US07618978B2
(2S,3R)-4-Amino-2-dibenzylamino-1-phenyloct-7-en-3-ol
Add powdered Zn (1.56 g, 24 mmol) portionwise at 0-5° C. to a stirred suspension of the (2S,3S)-2-dibenzylamino-4-nitro-1-phenyloct-7-en-3-ol mixture (2.7 g, 6 mmol) in a mixture of ethanol (20 mL) and concentrated HCl (20 mL). Stir for 1 h. Filter the reaction mixture and concentrate the filtrate under reduced pressure. Dilute residue with water and add concentrated ammonium hydroxide. Extract with dichloromethane. Wash the organic layer with water, dry (magnesium sulfate), and concentrate under reduced pressure to give the mixture of amines (1.5 g, 60%).

reactant | (2S,3S)-2-dibenzylamino-4-nitro-1-phenyloct-7-en-3-ol | 6 mmol, 2.7 g | C(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)[C@@H](C(CCC=C)[N+](=O)[O-])O)CC1=CC=CC=C1 | C28H32N2O3
reactant | HCl | 20 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Zn | 24 mmol, 1.56 g | [Zn] | Zn
product | (2S,3R)-4-Amino-2-dibenzylamino-1-phenyloct-7-en-3-ol | NC([C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)CCC=C | C28H34N2O
